US04435406
10.2 g of 7-amino-8-nitro-3,4-dihydro-2H-1,5-benzodioxepine were hydrogenated in 500 ml of methanol with Raney-nickel. After separating the catalyst, the solution was evaporated and the residue was recrystallized from ethyl acetate/petroleum either (low boiling). 7.7 g of 3,4-dihydro-2H-1,5-benzodioxepine-7,8-diamine (88.0% of theory) of melting point 97°-102° C. were obtained.

reactant | 7-amino-8-nitro-3,4-dihydro-2H-1,5-benzodioxepine | 10.2 g | NC1=CC2=C(OCCCO2)C=C1[N+](=O)[O-] | C9H10N2O4
solvent | methanol | 500 ml | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | 3,4-dihydro-2H-1,5-benzodioxepine-7,8-diamine | 7.7 g, 88.0% | O1CCCOC2=C1C=C(C(=C2)N)N | C9H12N2O2
